US07034015B2
Preparation 33: tert-Butyl (4R)-4-[2-(2-aminophenyl)ethyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (Compound 433)
Potassium tert-butoxide (498 mg, 4.44 mmol) was added to a solution of (2-nitrobenzyl)triphenylphosphonium chloride (2.04 g, 4.89 mmol) in 1,4-dioxane (10 mL) under an atmosphere of argon. The mixture was stirred for 30 min at room temperature and then at 80° C. for 40 min. A solution of tert-butyl (4S)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylate (510 mg, 2.22 mmol) in 1,4 dioxane (3.0 mL) was added with a syringe. The resulting mixture was refluxed for 4 h and then allowed to come to room temperature overnight. The reaction mixture was poured into water and extracted with EtOAc (×3). The organic phases were combined and washed with brine and dried with MgSO4. The crude product was purified by flash chromatography eluting with petroleum ether/EtOAc 9:1 to afford a (Z)/(E) mixture of tert-Butyl (4R)-2,2-dimethyl-4-[2-(2-nitrophenyl)vinyl]-1,3-oxazolidine-3-carboxylate as a yellow oil. 288 mg of the obtained product was dissolved in EtOAc (10 ml), added Pd/C (40 mg, 10%) and then stirred under an atmosphere of hydrogen (1 atm) for 4 h. The reaction mixture was filtered through a pad of decalite and concentrated in vacuo. The crude product was purified by flash chromatography eluting with petroleum ether/EtOAc 2:1 to afford the title compound as a white solid.

reactant | Potassium tert-butoxide | 4.44 mmol, 498 mg | CC(C)([O-])C.[K+]
reactant | (2-nitrobenzyl)triphenylphosphonium chloride | 4.89 mmol, 2.04 g | [Cl-].[N+](=O)([O-])C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | tert-butyl (4S)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylate | 2.22 mmol, 510 mg | C(=O)[C@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H19NO4
reactant | tert-Butyl (4R)-2,2-dimethyl-4-[2-(2-nitrophenyl)vinyl]-1,3-oxazolidine-3-carboxylate | CC1(OC[C@H](N1C(=O)OC(C)(C)C)C=CC1=C(C=CC=C1)[N+](=O)[O-])C | C18H24N2O5
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4 dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 40 mg | [Pd] | Pd
solvent | water | O | H2O
product | tert-Butyl (4R)-4-[2-(2-aminophenyl)ethyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | NC1=C(C=CC=C1)CC[C@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C18H28N2O3
